US06207667B1
4-(7-Isopropoxy-6-methoxy-4-quinazolinyl)-N-(4-phenoxyphenyl)-1-piperazinecarboxamide (Compound 339)
Substantially the same procedure as in Example 329 was repeated, except that 4-(7-isopropoxy-6-methoxy-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester obtained in Reference Example 9 was used in place of 4-(6,7-difluoro-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester, to give the desired compound.

reactant | 4-(7-isopropoxy-6-methoxy-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC(C)C | C21H30N4O4
reactant | 4-(6,7-difluoro-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)F)F | C17H20F2N4O2
product | 4-(7-Isopropoxy-6-methoxy-4-quinazolinyl)-N-(4-phenoxyphenyl)-1-piperazinecarboxamide | Yield: 100% | C(C)(C)OC1=C(C=C2C(=NC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)OC | C29H31N5O4
